US07495001B2
F] [rac]-[4-(Methyl-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethyl}-amino)-naphthalen-1-yloxy]-acetic acid
0.055 g (0.11 mmol) of the above prepared [rac]-[4-(methyl-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethyl}-amino)-naphthalen-1-yloxy]-acetic acid ethyl ester was dissolved in 0:6 ml of THF/EtOH=1/1, treated with 0.33 ml (3 eq.) of 1N NaOH, and kept at 0° C. for 2 h. The reaction mixture was then poured onto crashed ice/AcOEt/HCl dil., the organic layer washed with water and brine, dried over sodium sulfate, and evaporated to dryness. Crystallization from hexane/AcOEt afforded finally 0.040 g of the title compound as off-white solid of mp. 157-58° C.

reactant | [rac]-[4-(methyl-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethyl}-amino)-naphthalen-1-yloxy]-acetic acid ethyl ester | C(C)OC(COC1=CC=C(C2=CC=CC=C12)N(C(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C30H29F3N2O3
reactant | NaOH | 1N, 0.33 ml, 3 eq. | [OH-].[Na+]
solvent | THF EtOH | 6 ml | C1CCOC1.CCO
product | [rac]-[4-(Methyl-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethyl}-amino)-naphthalen-1-yloxy]-acetic acid | 0.040 g | CN(C1=CC=C(C2=CC=CC=C12)OCC(=O)O)C(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C28H25F3N2O3
